US04284644
To a solution of 5-aminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (0.519 g.) in pyridine (5 ml.) was added methanesulfonyl chloride (0.28 ml.) under ice-cooling, followed by stirring. The reaction mixture was poured into cooled dilute hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to remove the solvent. The residue was recrystallized from ethanol. By the above procedure there was obtained 5-methylsulfonylaminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one as colorless needles melting at 152°-154° C.

reactant | 5-aminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 0.519 g | NC1=CC2=C(OC3(CC3)C2=O)C=C1 | C10H9NO2
reactant | methanesulfonyl chloride | 0.28 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 5-methylsulfonylaminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | CS(=O)(=O)NC1=CC2=C(OC3(CC3)C2=O)C=C1 | C11H11NO4S
